US05164402
A. 7-(1-Acetylamino-3-azabicyclo[3.1.0] hex-3-yl)-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester
A mixture of 1-acetylamino-3-azabicyclo[3.1.0]hexane (60 mg, 0.28 mmol) and triethylamine (195 μl, 1.4 mmol) in acetonitrile (10 ml) was treated with the ethyl ester of 7-chloro-6-fluoro-1-(2,4-difluoro-phenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (95.6 mg, 0.25 mmol) and heated to 80° for 20 hours. The reaction mixture was concentrated in vacuo, diluted with chloroform and washed with saturated aqueous sodium bicarbonate. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was chromatographed on silica gel (eluant: 189:10:1 chloroform:methanol:conc. ammonium hydroxide) to yield the title product as a yellow oil (120.8 mg, 0.25 mmol, 100% yield). 1H NMR (CDCl3): 8.35 (s, 1H), 8.01 (d, J=13 Hz, 1H), 7.36 (m, 1H), 7.04 (m, 2H), 6.11 (bs, 1H), 4.35 (q, J=7 Hz, 2H), 3.96 (vbs, 1H), 3.69 (vbs, 3H), 1.96 (s, 3H), 1.73 (m, 1H), 1.37 (t, J=7 Hz, 3H), 1.06 (m, 1H), 0.71 (m, 1H).

reactant | 1-acetylamino-3-azabicyclo[3.1.0]hexane | 0.28 mmol, 60 mg | C(C)(=O)NC12CNCC2C1 | C7H12N2O
reactant | triethylamine | 1.4 mmol, 195 μl | C(C)N(CC)CC | C6H15N
reactant | 7-chloro-6-fluoro-1-(2,4-difluoro-phenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.25 mmol, 95.6 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | C15H6ClF3N2O3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 7-(1-Acetylamino-3-azabicyclo[3.1.0] hex-3-yl)-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester | 0.25 mmol, 120.8 mg, 100% yield | C(C)(=O)NC12CN(CC2C1)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C24H21F3N4O4
